US05155109
c) 1-Amino-4-methanesulphonyl-2,2-dimethylpiperazine
A mixture of 84.2 g of 4-methanesulphonyl-2,2-dimethyl-1-nitrosopiperazine, 90.5 g of thiourea dioxide, 200 ml of ethanol and 200 ml of water is cautiously treated with 85 g of caustic soda and heated to reflux for 30 hours. After cooling, the mixture is filtered and the product is isolated from the filtrate by extraction with methylene chloride. After drying over sodium sulphate and concentrating the methylene chloride solution, the oil which remains is dissolved in a little ethanol and precipitated as the hydrochloride by addition of ethanolic hydrochloric acid.

reactant | 4-methanesulphonyl-2,2-dimethyl-1-nitrosopiperazine | 84.2 g | CS(=O)(=O)N1CC(N(CC1)N=O)(C)C | C7H15N3O3S
reactant | thiourea dioxide | 90.5 g | [NH2+](C(=S)N)(=O)[O-] | CH4N2O2S
reactant | ethanol | 200 ml | C(C)O | C2H6O
reactant | caustic soda | 85 g | [OH-].[Na+]
solvent | water | 200 ml | O | H2O
product | 1-Amino-4-methanesulphonyl-2,2-dimethylpiperazine | NN1C(CN(CC1)S(=O)(=O)C)(C)C | C7H17N3O2S
